US09328117B2
A mixture of compound methyl 6-chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylate (2.0 g, 8.85 mmol) and (S)-N-methyl-1-phenylethanamine (2.39 g, 17.7 mmol) in anhydrous DMSO (20 mL) was stirred for 30 min at 130° C. under microwave condition. After cooled to room temperature, the mixture was diluted with EA (100 mL) and washed with H2O (100 mL*3). The organic layer was dried over Na2SO4, concentrated in vacuum and purified by flash column chromatography (silica-gel, DCM: MeOH=10:1) to give product (S)-methyl 3-methyl-6-(methyl (1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylate as a yellow oil (400 mg, 14.5%). LRMS (M+H+) m/z: calcd 326; found 326.

reactant | methyl 6-chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylate | 8.85 mmol, 2.0 g | ClC=1C=C(C=2N(N1)C(=NN2)C)C(=O)OC | C8H7ClN4O2
reactant | (S)-N-methyl-1-phenylethanamine | 17.7 mmol, 2.39 g | CN[C@@H](C)C1=CC=CC=C1 | C9H13N
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | EA | 100 mL | CC(OCC)=O | C4H8O2
product | (S)-methyl 3-methyl-6-(methyl (1-phenylethyl)amino)-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylate | 400 mg, 14.5% | CC1=NN=C2N1N=C(C=C2C(=O)OC)N([C@@H](C)C2=CC=CC=C2)C | C17H19N5O2
